US05318966
5.80 g (0.0173 mol) of rac-cis-3-(2-cyclopentyl-ethyl)-6-methoxy-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indole hydrochloride were dissolved in 0.18 l of 48% aqueous HBr and boiled under reflux for 5 hours. The mixture was poured on to ~200 g of ice and treated with 200 ml of 28% aqueous NaOH solution. The mixture was extracted three times with ethyl acetate, whereupon the organic phase was washed with saturated sodium chloride solution, dried with MgSO4, filtered and concentrated. By chromatography of the residue over silica gel with ethyl acetate there were obtained 4.20 g (85%) of oily rac-cis-3-(2-cyclopentyl-ethyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-ol.

reactant | rac-cis-3-(2-cyclopentyl-ethyl)-6-methoxy-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indole hydrochloride | 0.0173 mol, 5.80 g | Cl.C1(CCCC1)CCN1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)OC
reactant | NaOH | 200 ml | [OH-].[Na+]
solvent | HBr | 0.18 l | Br | BrH
product | rac-cis-3-(2-cyclopentyl-ethyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-ol | 4.20 g, 85% | C1(CCCC1)CCN1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)O | C19H27NO
